US07550474B2
b. Difluoro-(2-methanesulfonyl-phenyl)-acetic Acid Ethyl Ester
To a stirred suspension of Cu(0) (496 mg, 78 mmol) in DMSO (2.5 mL) at room temperature under nitrogen atmosphere was added ethylbromodifluoroacetate (0.5 mL, 39 mmol). The reaction mixture was stirred at 35° C. for 30 min. Then the solution was brought to room temperature and 1-iodo-2-methanesulfonylbenzene (1.0 g, 35 mmol), as prepared in the preceding step, was added. The reaction mixture was stirred at 35° C. for 12 h. The reaction mixture was cooled to room temperature and passed through a bed of Celite using EtOAc to rinse. The filtrate was washed with saturated NH4Cl (50 mL) until the blue color dissipated. The organic phase was then washed with brine (50 mL), dried over Na2SO4 and concentrated in vacuo to afford 772 mg crude product. The residue was purified by flash column chromatography (20-40% ethyl acetate in hexanes) to yield the desired compound (264 mg, 27%). 1H-NMR (300 MHz, CDCl3) δ 8.18 (d, J=7.6 Hz, 1H), 7.94 (dd, J=7.7 Hz, 1.7 Hz, 1H), 7.76 (pd, J=7.6 Hz, 1.5 Hz, 2H), 4.31 (q, J=7.2 Hz, 2H), 3.15 (s, 3H), 1.29 (t, J=7.1 Hz, 3H). LC/MS (m/z) [M+1]+ 279.3 (calculated for C11H13F2O4S, 279.3).

reactant | ethylbromodifluoroacetate | 39 mmol, 0.5 mL | C(C)OC(C(F)(F)Br)=O | C4H5BrF2O2
reactant | 1-iodo-2-methanesulfonylbenzene | 35 mmol, 1.0 g | IC1=C(C=CC=C1)S(=O)(=O)C | C7H7IO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | Difluoro-(2-methanesulfonyl-phenyl)-acetic Acid Ethyl Ester | 264 mg, 27% | C(C)OC(C(C1=C(C=CC=C1)S(=O)(=O)C)(F)F)=O | C11H12F2O4S
